US04921855
To a solution of N-t-butoxycarbonylsarcosinal (3.46 g) in dry tetrahydrofuran (100 ml) which was cooled to -78° C., was added dropwise a solution of isopentylmagnesium bromide prepared from isopentyl bromide (30.8 g) and magnesium (4.86 g) in dry tetrahydrofuran (200 ml). After the addition was complete, the reaction mixture was allowed to warm to ambient temperature and stirred at the same temperature for 4 hours. After saturated aqueous ammonium chloride (200 ml) was added thereto, the resulting mixture was extracted with diethyl ether (300 ml×2). The combined extract was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified with silicagel column chromatography (20% ethylacetate in n-hexane as eluent) to give 1-(N-t-butoxycarbonyl-N-methylamino)-2-hydroxy5-methylhexane (3.96 g).

reactant | N-t-butoxycarbonylsarcosinal | 3.46 g | C(C)(C)(C)OC(=O)N(C)CC=O | C8H15NO3
reactant | isopentylmagnesium bromide | C(CC(C)C)[Mg]Br
reactant | isopentyl bromide | 30.8 g | C(CC(C)C)Br | C5H11Br
reactant | magnesium | 4.86 g | [Mg] | Mg
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(N-t-butoxycarbonyl-N-methylamino)-2-hydroxy5-methylhexane | 3.96 g | C(C)(C)(C)OC(=O)N(C)CC(CCC(C)C)O | C13H27NO3
